US04886814
N-[2-(4-(6-Hydroxyhexoxy)phenyl)-1-methylethyl]-2-(2-trifluoromethyl-thiazol-4-yl)morpholine
Prepared by analogy to Example 32 by reaction of N-(2-hydroxyethyl)-2-(4-(6-hydroxyhexoxy)phenyl)-1-methylethylamine with 2-trifluoromethyl-4-bromoacetyl-thiazole and potassium hydrogen carbonate in acetone at room temperature, followed by reduction with sodium borohydride in trifluoroacetic acid. The resulting crude product is purified on a silica gel column using toluene/ethyl acetate=6:4 as eluant.

reactant | N-(2-hydroxyethyl)-2-(4-(6-hydroxyhexoxy)phenyl)-1-methylethylamine | OCCNC(CC1=CC=C(C=C1)OCCCCCCO)C | C17H29NO3
reactant | 2-trifluoromethyl-4-bromoacetyl-thiazole | FC(C=1SC=C(N1)C(CBr)=O)(F)F | C6H3BrF3NOS
reactant | potassium hydrogen carbonate | C(O)([O-])=O.[K+]
reactant | sodium borohydride | [BH4-].[Na+]
solvent | acetone | CC(=O)C | C3H6O
solvent | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | N-[2-(4-(6-Hydroxyhexoxy)phenyl)-1-methylethyl]-2-(2-trifluoromethyl-thiazol-4-yl)morpholine | OCCCCCCOC1=CC=C(C=C1)CC(C)N1CC(OCC1)C=1N=C(SC1)C(F)(F)F | C23H31F3N2O3S
